US09108939B2
A: 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(3-nitrophenoxy)piperidin-1-yl)methyl)phenyl)propan-2-ol
To a stirred mixture of 4-(3-nitrophenoxy)piperidine hydrochloride (11.87 mmol, 3.07 g) and triethylamine (35.6 mmol, 4.96 mL, 3.60 g) in dichloromethane was added 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (11.87 mmol, 4.00 g). The reaction was stirred for 20 hours then was filtered. The filtrate was chromatographed on silica (eluting with a gradient of dichloromethane to ethyl acetate) to give the title compound (4 g). MS (ESI) m/z 479.0 [M+H]+

reactant | 4-(3-nitrophenoxy)piperidine hydrochloride | 11.87 mmol, 3.07 g | Cl.[N+](=O)([O-])C=1C=C(OC2CCNCC2)C=CC1
reactant | triethylamine | 35.6 mmol, 4.96 mL, 3.60 g | C(C)N(CC)CC | C6H15N
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 11.87 mmol, 4.00 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(3-nitrophenoxy)piperidin-1-yl)methyl)phenyl)propan-2-ol | 4 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)OC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C21H20F6N2O4
